US04547501
(a) Preparation of 2,6-dichloro-6-hydrazinoquinoxaline
A mixture consisting of 23 g. (0.10 mole) of 2,3,6-trichloroquinoxaline and 11 g. (0.22 mole) of hydrazine hydrate in 500 ml. of ethanol was stirred at room temperature (~20° C.) overnight (~16 hours). The precipitate which formed was separated by filtration and washed with ethanol to ultimately afford 22.2 g. (97%) of pure 2,6-dichloro-3-hydrazinoquinoxaline, m.p. <250° C. Mass Spectrum: m/e, 228 (P).

reactant | 2,3,6-trichloroquinoxaline | 0.10 mole | ClC1=NC2=CC=C(C=C2N=C1Cl)Cl | C8H3Cl3N2
reactant | hydrazine hydrate | 0.22 mole | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 2,6-dichloro-6-hydrazinoquinoxaline | ClC1=NC=2C=CC(CC2N=C1)(NN)Cl | C8H8Cl2N4
